US06103708
(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(3-cyclopentyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using (2-benzyl-4,5-dimethyl-thiophen-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone (3.32 g, 8.20 mmol) and 1M boron tribromide/CH2Cl2 (1.6 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with a 2, 5 & 10% EtOAc/hexane step gradient gave 0.63 g (18%) of the title compound. 1H NMR (DMSO-d6) δ consistent.

reactant | (2-benzyl-4,5-dimethyl-thiophen-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 8.20 mmol, 3.32 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C=C1)OC)C1CCCC1)C)C | C26H28O2S
reactant | boron tribromide CH2Cl2 | 1M, 1.6 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 0.63 g, 18% | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C=C1)O)C1CCCC1)C)C | C25H26O2S
